US04978753
In the manner given in Example 16, carbonyldiimidazole, 4-dimethylamino-butyn-2-oic acid and 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine was stirred in tetrahydrofuran-dimethylformamide to give 9-chloro-1(dimethylaminoethyl)-7-phenylpyrimido[1,2-a][1,4]-benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C15H12ClN3
reactant | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 9-chloro-1(dimethylaminoethyl)-7-phenylpyrimido[1,2-a][1,4]-benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NCC=3N2C(=CC(N3)=O)CCN(C)C)C3=CC=CC=C3)C1 | C22H21ClN4O
